US05194348
(i) Synthesis of 5-(3-hexadecyloxyphenyl)-3-hydroxy-1-phenylpyrazole
60 ml of toluene and 10 g (0.12 mol) of manganese dioxide were added to 6.3 g (0.013 mol) of 4,5-dihydroxy-5-(3-hexadecyloxyphenyl)-3-hydroxy-1-phenylpyrazole and, heated and stirred for 2 hours on a steam bath. After inorganic substances were filtrated out, the remaining filtrate was concentrated and dried to a solid, and the solid product was crystallized in 20 ml of ethyl acetate. The product crystallized had a melting point of from 108° to 109° C. Yield: 5.8 g, 92.5%.

reactant | 4,5-dihydroxy-5-(3-hexadecyloxyphenyl)-3-hydroxy-1-phenylpyrazole | 0.013 mol, 6.3 g | OC1=C(NN(C1(C1=CC(=CC=C1)OCCCCCCCCCCCCCCCC)O)C1=CC=CC=C1)O | C31H46N2O4
catalyst | manganese dioxide | 0.12 mol, 10 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(3-hexadecyloxyphenyl)-3-hydroxy-1-phenylpyrazole | C(CCCCCCCCCCCCCCC)OC=1C=C(C=CC1)C1=CC(=NN1C1=CC=CC=C1)O | C31H44N2O2
